US09102591B2
To a solution of 5-chloro-nicotinic acid methyl ester (17.2 g, 101 mmol) in methanol (230 mL) and DCM (230 mL) at 0° C. was added sodium borohydride (16.4 g, 434 mmol). The reaction mixture was stirred at room temperature for 18 hours. After completion, the reaction mixture was concentrated under reduced pressure, diluted with water (300 mL) and extracted with AcOEt (3×300 mL). The combined organic layer was dried over sodium sulfate, filtered, and concentrated under reduced pressure. The residue was then purified by silica gel chromatography to afford (5-chloro-pyridin-3-yl)-methanol (7.8 g, 54%). 1H NMR (400 MHz, DMSO-d6) δ ppm 8.45-8.52 (m, 2 H), 7.83 (s, 1 H), 5.45 (t, J=5.8 Hz, 1 H), 4.55 (t, J=5.7 Hz, 2 H). MS m/z 144.1

reactant | 5-chloro-nicotinic acid methyl ester | 101 mmol, 17.2 g | COC(C1=CN=CC(=C1)Cl)=O | C7H6ClNO2
reactant | sodium borohydride | 434 mmol, 16.4 g | [BH4-].[Na+]
solvent | methanol | 230 mL | CO | CH4O
solvent | DCM | 230 mL | C(Cl)Cl | CH2Cl2
product | (5-chloro-pyridin-3-yl)-methanol | 7.8 g, 54% | ClC=1C=C(C=NC1)CO | C6H6ClNO
